US07329682B2
Preparation of 2-phenyl benzothiazole
1 g of 2-chlorotrytyl chloride resin (1.66 mmol/g, 1 eq) was allowed to swell in methylene chloride for 3-5 min, 1.162 mmol of N,N-diisopropylethylaminem (0.202 ml, 0.7 eq) and 1.66 mmol of aminothiophenol (0.178 ml, 1 eq) were added thereto, and the mixture was gently stirred for 3 hr at room temperature. Then, the resin was filtered and washed with a mixture of methylene chloride, methanol and N,N-diisopropylethylamine (85:10:5 v/v/v) to obtain 2-chlorotrityl resin loaded with 0.332 mmol/g of 2-aminobenzenethiol. The loaded 2-chlorotrityl resin 200 mg was suspended in 5-6 ml of N,N-dimethylformamide, 0.996 mmol of benzoyl chloride (0.116 ml, 3 eq) and the mmol of N,N-diisopropylethylamine (0.173 ml, 3 eq) were added thereto, and the mixture was shaken for 3 hr at room temperature. Then, the resin was filtered and washed with 5×10 ml N,N-dimethylformamide and 5×10 ml methylene chloride. The resin still remaining on the filter was then treated with 20 ml portions of 65% trifluoroacetic acid/methylene chloride and 5% triethylsilane/methylene chloride. The obtained filtrates were concentrated in a vacuum to obtain an oily residue, which was dissolved in 10 ml of N,N-dimethylformamide/methanol (9:1 v/v) containing 0.2 mmol of dithiothreitol (0.031 g). After 3 hr of standing at room temperature, the mixture was extracted with ether, washed with water, dried and concentrated in a vacuum to obtain the title compound as a white powder.

reactant | 2-aminobenzenethiol | NC1=C(C=CC=C1)S | C6H7NS
reactant | 2-chlorotrityl resin | 200 mg | C1=CC=C(C=C1)C(C2=CC=CC=C2)(C3=CC=CC=C3Cl)Cl | C19H14Cl2
reactant | benzoyl chloride | 0.996 mmol, 0.116 ml, 3 eq | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N,N-diisopropylethylamine | 0.173 ml, 3 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dithiothreitol | 0.2 mmol, 0.031 g | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
solvent | N,N-dimethylformamide | 5-6 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide methanol | 10 ml | CN(C=O)C.CO
product | 2-phenyl benzothiazole | C1(=CC=CC=C1)C=1SC2=C(N1)C=CC=C2 | C13H9NS
